US05476933
Preparation of 3-Hydroxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione (61).
To a stirred suspension of 3-methoxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione (207 mg, 1.00 mol) in dry CH2Cl2 (2 mL, distilled from CaH2) under N2, there was added a solution of BBr3 in CH2Cl2 (2.0 mL, 1M, Aldrich) in one portion over 5 seconds at rt. A brown precipitate immediately formed. The reaction was allowed to stir under N2 at rt for 45 min. The reaction was added to saturated NaHCO3 (15 mL) and the resulting orange solution was allowed to stir for 15 min. The solution was extracted with CH2Cl2 (1×4 mL). The aqueous solution was acidified with coned HCl (pH 2), the resulting precipitate collected by filtration and washed to neutrality with water (6×2 mL). Crystallization from 95% EtOH yielded beige flakes (115 mg, 60%, pure by TLC, 1H NMR and C,H,N analysis); mp 237°-238° C. (dec.); 1H NMR (DMSO-d6) δ1.55 (m, 4H), 2.27 (m, 2H), 2.45 (m, 2H), 6.30 (s, 1H), 10.14 (bs, 1H), 10.84 (s, 1H). Anal. Calcd for C10H11NO3 : C, 62.17; H, 5.74; N, 7.25. Found: C, 62.23; H, 5.62; N, 7.26.

reactant | 3-methoxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione | 1.00 mol, 207 mg | COC=1C(NC2=C(C(C1)=O)CCCC2)=O | C11H13NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione | OC=1C(NC2=C(C(C1)=O)CCCC2)=O | C10H11NO3
